US06333427B1
To 60.9 g of the N-carbonyl-L-phenylalanine methyl ester, 66.0 g of t-butanol was added and the reaction was conducted under reflux for eight hours. Then, the unreacted t-butanol was distilled off at 65° C. under reduced pressure from the reaction solution to obtain 82.5 g of a crude oily N-t-butoxycarbonyl-L-phenylalanine methyl ester. The reaction yield was 99.5%. The optical purity of the N-t-butoxycarbonyl-L-phenylalanine methyl ester preparation was 97.5%ee.

reactant | N-carbonyl-L-phenylalanine methyl ester | 60.9 g | COC([C@@H](N=C=O)CC1=CC=CC=C1)=O | C11H11NO3
reactant | t-butanol | 66.0 g | C(C)(C)(C)O | C4H10O
product | N-t-butoxycarbonyl-L-phenylalanine methyl ester | 82.5 g, yield was 99.5% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C15H21NO4
